US06254799B1
A solution of di-n-butyl chlorophosphate (130.3 g, 0.57 mole) in 600 mL of dichloromethane containing 55.37 g (0.70 mole) of pyridine was cooled to 0° C. Isobutanol (42.25 g, 0.57 mole) was added dropwise over 1 hour. The formation of a white precipitate was immediately observed. The reaction mixture was then stirred for 24 hours at room temperature. The pyridinium hydrochloride was filtered off, and the solution was washed with water (2×250 mL), aqueous 0.5 N HCl (2×250 mL) and water (25×250 mL). The organic phase was dried over anhydrous magnesium sulfate for 12 hours. Filtration of the drying agent, followed by the removal of the solvent using a Roto-vap, yielded di-n-butyl isobutyl phosphate as a clear colorless liquid. Distillation of the crude product (68° C. at 0.02 torr) gave 125 g of 94.8% di-n-butyl isobutyl phosphate (DBIBP).

reactant | di-n-butyl chlorophosphate | 0.57 mole, 130.3 g | P(=O)(OCCCC)(OCCCC)Cl | C8H18ClO3P
reactant | dichloromethane | 0.70 mole, 600 mL, 55.37 g | ClCCl | CH2Cl2
reactant | Isobutanol | 0.57 mole, 42.25 g | C(C(C)C)O | C4H10O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | di-n-butyl isobutyl phosphate | P(=O)(OCCCC)(OCCCC)OCC(C)C | C12H27O4P
